US07271229B2
CH3C(O)CH2OCOCF2CF3  (B2-10)
CH3COCH2OH (150.0 g) and triethylamine (225.4 g) were put into a flask and stirred under cooling in an ice bath. CF3CF2COF (377.5 g) diluted with nitrogen gas was blown into the flask over a period of 4 hours, while maintaining the internal temperature to be at most 10° C. Then, the mixture was stirred at room temperature for 2 hours and then added to 500 mL of ice water.

reactant | CH3COCH2OH | 150.0 g | CC(=O)CO | C3H6O2
reactant | CF3CF2COF | 377.5 g | C(F)(F)(F)C(F)(F)C(=O)F | C3F6O
solvent | triethylamine | 225.4 g | C(C)N(CC)CC | C6H15N
product | CH3C(O)CH2OCOCF2CF3 | CC(=O)COC(=O)C(F)(F)C(F)(F)F | C6H5F5O3
